US07851629B2
4-(2,3-difluorophenyl)-1-propyl-1,2,3,6-tetrahydropyridine
Preparation according to preparation 4: 4-(2,3-difluorophenyl)-1-propylpiperidin-4-ol (6.43 g, 25.2 mmol), trifluoroacetic acid (40 ml). Yield: 3.35 g. MS m/z (rel. intensity, 70 eV) 237 (M+, 26), 209 (14), 208 (bp), 151 (20), 127 (23).

reactant | 4-(2,3-difluorophenyl)-1-propylpiperidin-4-ol | 25.2 mmol, 6.43 g | FC1=C(C=CC=C1F)C1(CCN(CC1)CCC)O | C14H19F2NO
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2,3-difluorophenyl)-1-propyl-1,2,3,6-tetrahydropyridine | FC1=C(C=CC=C1F)C=1CCN(CC1)CCC | C14H17F2N
